US06531502B1
A solution of 5-(2-chloroethyl)-2-oxindole (2.3 g), morpholine (1.2 ml) and diisopropylethylamine (1.2 ml) in dimethylsulfoxide (10 ml) was heated overnight at 100° C. The mixture was cooled, poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried and evaporated. The residue was chromatographed (silica gel, 5% methanol in chloroform) to give 0.9 g (31%) of 5-(2-morpholin-4-yl-ethyl)-2-oxindole as a white solid.

reactant | 5-(2-chloroethyl)-2-oxindole | 2.3 g | ClCCC=1C=C2CC(NC2=CC1)=O | C10H10ClNO
reactant | morpholine | 1.2 ml | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 1.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 5-(2-morpholin-4-yl-ethyl)-2-oxindole | 0.9 g, 31% | N1(CCOCC1)CCC=1C=C2CC(NC2=CC1)=O | C14H18N2O2
